US06093744
Synthesis of [(2,4,6-Triisopropyl-phenyl)-acetyl]-sulfamic acid 4-(benzylamino-methyl)-2,6-diisopropyl-phenyl ester mono hydrochloride
[(2,4,6-Triisopropyl-phenyl)-acetyl]-sulfamic acid 4-formyl-2,6-diisopropyl-phenyl ester (1.0 g, 1.9 mmol), benzylamine (0.21 mL, 1.9 mmol), and sodium triacetoxyborohydride (0.56 g, 2.6 mmol) were mixed in 100 mL of dichloromethane under a dry air atmosphere for 16 hours. Quenched by adding saturated sodium bicarbonate (50 mL). The resulting white solid was collected by filtration and resuspended in diethyl ether. HCl gas was bubbled through for 30 minutes, and the resulting solution was concentrated in vacuo to give the title compound as a white solid; mp 179-183° C.

reactant | [(2,4,6-Triisopropyl-phenyl)-acetyl]-sulfamic acid 4-formyl-2,6-diisopropyl-phenyl ester | 1.9 mmol, 1.0 g | C(=O)C1=CC(=C(C(=C1)C(C)C)OS(NC(CC1=C(C=C(C=C1C(C)C)C(C)C)C(C)C)=O)(=O)=O)C(C)C | C30H43NO5S
reactant | benzylamine | 1.9 mmol, 0.21 mL | C(C1=CC=CC=C1)N | C7H9N
reactant | sodium triacetoxyborohydride | 2.6 mmol, 0.56 g | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
reactant | dichloromethane | 100 mL | ClCCl | CH2Cl2
product | [(2,4,6-Triisopropyl-phenyl)-acetyl]-sulfamic acid 4-(benzylamino-methyl)-2,6-diisopropyl-phenyl ester mono hydrochloride | Cl.C(C1=CC=CC=C1)NCC1=CC(=C(C(=C1)C(C)C)OS(NC(CC1=C(C=C(C=C1C(C)C)C(C)C)C(C)C)=O)(=O)=O)C(C)C | InChI=1S/C37H52N2O4S.ClH/c1-23(2)30-18-31(24(3)4)35(32(19-30)25(5)6)20-36(40)39-44(41,42)43-37-33(26(7)8)16-29(17-34(37)27(9)10)22-38-21-28-14-12-11-13-15-28;/h11-19,23-27,38H,20-22H2,1-10H3,(H,39,40);1H
